US08895603B2
To 46.8 kg (142 mol) of tert-butyl [(2R,3S)-2-(2,5-difluorophenyl)-5-hydroxytetrahydro-2H-pyran-3-yl]carbamate in a stirred vessel was added acetonitrile (150 kg), acetic acid (50 kg), and water (25 kg). After dissolving at room temperature, the solution was cooled to 0° C. and RuCl3.3H2O (250 g, 956 mmol) in water (50 kg) was added under nitrogen. Then, NaBrO3 (11.7 kg, 77.5 mol) was added in six portions every 1.5 h under nitrogen. After stirring at 0° C. for 6 h, 2-propanol (31 kg) was added over 30 min. at 0° C. Then, water (720 kg) was added at this temperature over 5 h. The resulting slurry was stirred overnight, filtered, and cake washed with water. The solids were then dried under vacuum at 40-60° C. to give tert-butyl [(2R,3S)-2-(2,5-difluorophenyl)-5-oxotetrahydro-2H-pyran-3-yl]carbamate.

reactant | tert-butyl [(2R,3S)-2-(2,5-difluorophenyl)-5-hydroxytetrahydro-2H-pyran-3-yl]carbamate | 142 mol, 46.8 kg | FC1=C(C=C(C=C1)F)[C@H]1OCC(C[C@@H]1NC(OC(C)(C)C)=O)O | C16H21F2NO4
reactant | acetonitrile | 150 kg | C(C)#N | C2H3N
reactant | acetic acid | 50 kg | C(C)(=O)O | C2H4O2
reactant | 2-propanol | 31 kg | CC(C)O | C3H8O
solvent | water | 50 kg | O | H2O
solvent | water | 720 kg | O | H2O
solvent | water | 25 kg | O | H2O
product | tert-butyl [(2R,3S)-2-(2,5-difluorophenyl)-5-oxotetrahydro-2H-pyran-3-yl]carbamate | FC1=C(C=C(C=C1)F)[C@H]1OCC(C[C@@H]1NC(OC(C)(C)C)=O)=O | C16H19F2NO4
